US09303007B2
6-Bromo-2-(1-ethoxyvinyl)quinoline
Dichlorobis(triphenylphosphine)-palladium(II) (0.289 g, 0.412 mmol) was added to a solution of 6-bromo-2-chloroquinoline (1.0 g, 4.1 mmol) and tributyl(1-ethoxyvinyl)stannane (1.79 g, 4.95 mmol) in dioxane (8 mL) and the mixture was stirred at 100° C. for 5 h, desired product was identified by LC-MS. The crude reaction mixture was concentrated and purified by flash silica gel chromatography (eluted with 1:1 hexanes/DCM) to yield product 6-bromo-2-(1-ethoxyvinyl)quinoline (720 mg) as white solid. LC-MS retention time 4.091 min; m/z 279.84 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and Solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | 6-bromo-2-chloroquinoline | 4.1 mmol, 1.0 g | BrC=1C=C2C=CC(=NC2=CC1)Cl | C9H5BrClN
reactant | tributyl(1-ethoxyvinyl)stannane | 4.95 mmol, 1.79 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Dichlorobis(triphenylphosphine)-palladium(II) | 0.412 mmol, 0.289 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Bromo-2-(1-ethoxyvinyl)quinoline | BrC=1C=C2C=CC(=NC2=CC1)C(=C)OCC | C13H12BrNO
